US06103718
A. 2-(3,4-Dimethoxybenzoyl)[cis]cyclohexanecarboxylic acid
0.5 mole of 1,2-dimethoxybenzene was added slowly to a suspension of 0.5 mole aluminiumtrichloride in 1 l of dichloromethane at 0° C. After complete addition, cis-cyclohexane-1,2-dicarboxylic anhydride was added to the solution. After 8 hours of reflux the solution was poured onto ice. The organic layer was dried over magnesium sulfate and evaporated. The residue was washed with diethyl ether and dried. M.p. 171°-175° C.

reactant | 1,2-dimethoxybenzene | 0.5 mole | COC1=C(C=CC=C1)OC | C8H10O2
reactant | aluminiumtrichloride | 0.5 mole | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | cis-cyclohexane-1,2-dicarboxylic anhydride | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
solvent | dichloromethane | 1 l | ClCCl | CH2Cl2
product | 2-(3,4-Dimethoxybenzoyl)[cis]cyclohexanecarboxylic acid | COC=1C=C(C(=O)[C@@H]2[C@@H](CCCC2)C(=O)O)C=CC1OC | C16H20O5
